US07563815B2
A mixture of 5-bromoindan-1-one (6.33 g, 30.0 mmol), titanium (IV) isopropoxide (17.8 mL, 60.0 mmol), 4-tert-butylcyclohexyl amine (9.32 g, 60.0 mmol) in absolute ethanol (200 mL) was stirred under nitrogen at room temperature for 12 h. Sodium borohydride (1.70 g, 45.0 mmol) was then added and the resulting mixture was stirred for an additional 8 h at room temperature. The reaction was quenched by pouring into aqueous ammonia (2N, 300 mL). The resulting inorganic precipitate was filtered off and washed with dichloromethane (150 mL). The organic layer was separated and the remaining aqueous layer was extracted once with dichloromethane (150 mL). The combined organic extracts were dried over Na2SO4, filtered and concentrated. Chromatography (10% to 20% EtOAc in Hexane) afforded (5-Bromo-2,3-dihydro-1H-inden-1-yl)(trans-4-tert-butylcyclohexyl)amine and the corresponding cis product (less polar). HPLC/MS: m/z=350.1 (M+1), Rt=3.01 min.

reactant | 5-bromoindan-1-one | 30.0 mmol, 6.33 g | BrC=1C=C2CCC(C2=CC1)=O | C9H7BrO
reactant | 4-tert-butylcyclohexyl amine | 60.0 mmol, 9.32 g | C(C)(C)(C)C1CCC(CC1)N | C10H21N
reactant | Sodium borohydride | 45.0 mmol, 1.70 g | [BH4-].[Na+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
catalyst | titanium (IV) isopropoxide | 60.0 mmol, 17.8 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | (5-Bromo-2,3-dihydro-1H-inden-1-yl)(trans-4-tert-butylcyclohexyl)amine | BrC=1C=C2CCC(C2=CC1)N[C@@H]1CC[C@H](CC1)C(C)(C)C | C19H28BrN
